datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1CC)[H])CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(CC)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C([H])[S]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)[H])[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)[H])CCCCCC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CC.[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CCCCCC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CCCCCC)CCCCCC 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C([H])[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[O:10]([Na])C(CCC)C([H])C([H])C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"[O-:21][C:20]1(C)C(C)=C(C)C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)/C(C)=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"[O:10]([Na])C(C)C([H])/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[CH:20]([NH:10]CC)[Cl:21]>>C[CH:20]=[NH+:10]CC.[Cl-:21] 10=20;20,21=21"
"[H][O:10]C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CC)CC)C.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC)C 21=20;20,10=10"
"[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(CC)[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C(C)C(C)C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C(C)C(C)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C(CC)C(CC)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C)C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([Na])C(CCC)C([H])/C([H])=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C([H])C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CCCCCC.[O-:21][H] 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)C)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)C)C1=CC=CC=C1 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[NH:10](C)C([H])C(O)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(O)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O+:10]([K])C(CCC)C([H])=C1[H]>>[O:10]([K])C(CCC)/C([H])=C([C:20](OCC)=[O:21])/[H] 21=20;20,10=10"
